US05936129
Sodium hydride (200 g, 5 mol, 60% dispersion in mineral oil) was placed in a 5-liter four-neck round-bottomed flask equipped with a mechanical stirrer, a condenser and a thermometer under a nitrogen atmosphere. To the sodium hydride was added xylenes (600 g, 5.65 mol) and methyl neo-decanoate (1163 g, 6.25 mol) in a dropping funnel at ambient temperature, while carefully watching the pot temperature and nitrogen gas flow. The resulting slurry was heated to 150° C. while vigorously stirring (300 rpm or so) under a nitrogen atmosphere, and acetophenone (301 g, 2.5 mol) was introduced in portions over 3h maintaining the same temperature. After completion of the addition, the mixture was stirred an additional 30 min. The mixture was then cooled to ambient temperature, and treated with cold water (100 mL) and then cold aqueous sulfuric acid (2 liter of 125 g H2SO4 per liter) keeping the temperature below 30° C. After transfer of the solution into a 5-liter separatory funnel, aqueous phase was separated and the remaining organic layer washed with water (800 mL×3) followed by brine (NaCl saturated, 500 mL). Most of low boiling components (mostly xylenes) were removed by a rotary evaporator (80° C. at 10-20 mbar). Distillation using a 15-cm Vigreux distill column in vacuo gave 1-phenyl-3-neononyl-1,3-propanedione (481 g, 1.76 mol) in 61% yield, after combining the fractions distilled at 185-196° C. at 1.5-2 mmHg.

reactant | Sodium hydride | 5 mol, 200 g | [H-].[Na+]
reactant | methyl neo-decanoate | 6.25 mol, 1163 g | C(CCCCCC(C)(C)C)(=O)OC | C11H22O2
reactant | acetophenone | 2.5 mol, 301 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sulfuric acid | 2 liter, 125 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 mL | O | H2O
product | 1-phenyl-3-neononyl-1,3-propanedione | 1.76 mol, 481 g, 61% yield | C1(=CC=CC=C1)C(CC(=O)CCCCCC(C)(C)C)=O | C18H26O2
